* CMOS 2-Input NOR Gate (NOR2) using sky130 PDK

.include "{model_path}"

.temp {temp}

Vsupply vdd 0 DC {vdd}
{vin_a_line}
{vin_b_line}

XM1 mid a vdd vdd sky130_fd_pr__pfet_01v8 W={width_p1} L=0.15
XM2 out b mid vdd sky130_fd_pr__pfet_01v8 W={width_p2} L=0.15
XM3 out a 0 0 sky130_fd_pr__nfet_01v8 W={width_n1} L=0.15
XM4 out b 0 0 sky130_fd_pr__nfet_01v8 W={width_n2} L=0.15

Cload out 0 {cload}f

.tran 0.01n 20n
.control
run
wrdata {output_file} v(a) v(b) v(out) i(vsupply)
.endc
.end